US04002638
To a solution of 8 parts of 2,11-dihydro-3H-s-triazolo-[3,4-b][3]benzazepin-3-one in 80 volume parts of dimethylformamide is added 9 volume parts of 5N aqueous sodium hydroxide solution and then 3 volume parts of methyl iodide is added dropwise under stirring. After stirring for 1 hour, the reaction mixture is diluted with water and extracted with ethyl acetate. The ethyl acetate layer is washed with water and the solvent is distilled off. The precipitate is collected by filtration to give 2,11-dihydro-2-methyl-3H-s-triazolo[3,4-b][3]benzazepin-3-one as crystals. Recrystallization from isopropyl ether gives light-brown needles melting at 123° -124° C.

reactant | 2,11-dihydro-3H-s-triazolo-[3,4-b][3]benzazepin-3-one | N=1NC(N2C1CC1=C(C=C2)C=CC=C1)=O | C11H9N3O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | water | O | H2O
product | 2,11-dihydro-2-methyl-3H-s-triazolo[3,4-b][3]benzazepin-3-one | CN1N=C2CC3=C(C=CN2C1=O)C=CC=C3 | C12H11N3O
